US03998958
Conversion of the hydrochloride salt of 2-imino-1-methylpyrrolidine (6.73 g.; 0.05 mole) to the free base (4.9 g. assuming 100% conversion) is carried out in the usual manner. After drying over K2CO3, the benzene layer is stirred, and 6.66 g. (0.05 mole) of m-tolylisocyanate is added (solid forms). The reaction mixture is stirred at room temperature overnight. The solid is collected, m.p. = 148°-149° C. The benzene filtrate, after removal of solvent, yields a further crop of solid material, m.p. 137°-142° C. Recrystallizations of the combined solids from acetone gives the pure product, 1-m-methylphenyl-3-(1-methyl-2-pyrrolidylidene)urea, m.p. = 149°-151° C.

reactant | 2-imino-1-methylpyrrolidine | 0.05 mole, 6.73 g | N=C1N(CCC1)C | C5H10N2
reactant | m-tolylisocyanate | 0.05 mole | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
product | 1-m-methylphenyl-3-(1-methyl-2-pyrrolidylidene)urea | CC=1C=C(C=CC1)NC(=O)N=C1N(CCC1)C | C13H17N3O
